US08039503B2
E23.1. Synthesis of 1′-(3-phenylpropyl)spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (Compound 153)
To a solution of spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione (0.566 g, 1.88 mmol) in acetonitrile (30 mL) was added triethylamine (0.80 mL, 5.64 mmol) followed by (3-bromopropyl)benzene (0.747 g, 3.76 mmol). The reaction was stirred at 70° C. for 3 hours. The solvent was then evaporated under reduced pressure. The residue was dissolved in dichloromethane (30 mL) and the organic layer was washed with water (30 mL). The organic extract was dried with Na2SO4 and concentrated under reduced pressure. The crude product was purified by flash column chromatorgraphy (SiO2, 8% CH3OH in dichloromethane). The product obtained after the chromatography was further purified by crystallization from hexanes and dichloromethane to give the desired product as a purple solid (0.405 g, 51%). M.p.=112-114° C.; 400 MHz 1H NMR (DMSO-d6) δ: 7.90 (d, J=7.6 Hz, 1H), 7.78 (d, J=3.2 Hz, 2H), 7.58-7.54 (m, 1H), 7.29-7.22 (m, 2H), 7.21-7.14 (m, 3H), 3.07 (s, 2H), 2.74 (m, 2H), 2.60 (t, J=7.6 Hz 2H), 2.37-2.27 (m, 4H), 2.05-1-97 (m, 2H), 1.85-1.71 (m, 4H); LCMS: 420 [M+H]; Calc. for C25H25NO3S: C 71.51, H 6.005, N 3.338; Found C 72.08, H 5.35, N 3.43.

reactant | spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 1.88 mmol, 0.566 g | N1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C16H15NO3S
reactant | triethylamine | 5.64 mmol, 0.80 mL | C(C)N(CC)CC | C6H15N
reactant | (3-bromopropyl)benzene | 3.76 mmol, 0.747 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1′-(3-phenylpropyl)spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidine]-5,6-dione | 0.405 g, 51% | C1(=CC=CC=C1)CCCN1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C25H25NO3S
